US08791146B2
2-({[2-(4-Chlorophenyl)-1,3-thiazol-4-yl]methyl}sulphanyl)-4-[4-(2-hydroxyethoxy)phenyl]-6-methoxypyridine-3,5-dicarbonitrile
2.095 g (6.399 mmol) of 4-[4-(2-hydroxyethoxy)phenyl]-2-methoxy-6-sulphanylpyridine-3,5-dicarbonitrile together with 1.875 g (7.679 mmol) of 4-(chloromethyl)-2-(4-chlorophenyl)-1,3-thiazole and 1.613 g (19.197 mmol) of sodium bicarbonate in 50 ml of DMF are stirred at room temperature overnight. Water and methanol are added, and the reaction mixture is placed in an ultrasonic bath for 2 minutes. A white solid precipitates out and is filtered off, washed with methanol and dried under high vacuum. The mother liquor is concentrated to half of the original volume and placed in the fridge for 30 minutes. The precipitated solid is filtered off, washed with methanol and dried under high vacuum. The two precipitated solids are combined, giving a total of 2.98 g (85% of theory) of the target compound.

reactant | 4-[4-(2-hydroxyethoxy)phenyl]-2-methoxy-6-sulphanylpyridine-3,5-dicarbonitrile | 6.399 mmol, 2.095 g | OCCOC1=CC=C(C=C1)C1=C(C(=NC(=C1C#N)S)OC)C#N | C16H13N3O3S
reactant | 4-(chloromethyl)-2-(4-chlorophenyl)-1,3-thiazole | 7.679 mmol, 1.875 g | ClCC=1N=C(SC1)C1=CC=C(C=C1)Cl | C10H7Cl2NS
reactant | sodium bicarbonate | 19.197 mmol, 1.613 g | C([O-])(O)=O.[Na+]
reactant | Water | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | methanol | CO | CH4O
product | 2-({[2-(4-Chlorophenyl)-1,3-thiazol-4-yl]methyl}sulphanyl)-4-[4-(2-hydroxyethoxy)phenyl]-6-methoxypyridine-3,5-dicarbonitrile | ClC1=CC=C(C=C1)C=1SC=C(N1)CSC1=NC(=C(C(=C1C#N)C1=CC=C(C=C1)OCCO)C#N)OC | C26H19ClN4O3S2
